US07348359B2
Methyl thioglycolate was dissolved in DMF (10 ml) and this mixture was cooled to 0° C. under an atmosphere of nitrogen. NaH (750 mg of 60% mineral oil dispersion, 18.1 mmol) was then added in one portion. After 5 min., the ice bath was removed and p-fluoroacetophenone (1 ml, 8.2 mmol) was added in one portion. The reaction mixture stirred at ambient temperature for 1 hr then diluted with ethyl acetate (50 ml) and washed with water. The aqueous layer was extracted with ethyl acetate (2×50 ml) and the combined organics dried over MgSO4 and concentrated in vacuo to yield (4-acetyl-phenylsulfanyl)-acetic acid methyl ester, as a white waxy solid (1.48 g, 80%). 1H NMR (250 MHz, CDCl3): δ 7.80 (d, 2H, J=9.4), 7.32 (d, 2H, J=9.4), 3.71 (s, 2H), 3.67 (s, 3H), 2.50 (s, 3H). MS [EI+] 225 (M+H)+.

reactant | Methyl thioglycolate | C(CS)(=O)OC | C3H6O2S
reactant | NaH | 18.1 mmol, 750 mg | [H-].[Na+]
reactant | p-fluoroacetophenone | 8.2 mmol, 1 ml | FC1=CC=C(C=C1)C(C)=O | C8H7FO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (4-acetyl-phenylsulfanyl)-acetic acid methyl ester | COC(CSC1=CC=C(C=C1)C(C)=O)=O | C11H12O3S
